Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine  / Codeine
 
Attending: ___.
 
Chief Complaint:
___ s/p resection and proximal tibia replacement
reconstruction with medial gastrocnemius muscle flap with Dr. 
___
___ for left proximal tibia chondrosarcoma. She was recently
admitted for possible wound infection but her CXR, CT leg, UA,
labs and physical exam were not consistent with infection. No 
DVT
based on duplex. She was discharged from ___ on ___.
She presented again to an ED in ___ two days ago with concern
for infection. Per pt report, she received XR and had labs drawn
which did not show infection, but was discharged with
instructions to wash the wound with soap and water daily - which
she had been doing in the shower. She noted a dark eschar
starting a few days ago. She also notes that her wound has a 
foul
smell with some serous vs. purulent drainage. She denies fever,
chills, nausea, vomiting. Her left foot pain has actually
improved and her left leg/ankle swelling has markedly improved.
Overall she has been feeling well except her left leg pain. 
  
 
Major Surgical or Invasive Procedure:
___ - washout LLE/vac placement 
___ - LLE primary wound closure per plastic surgery 
 
History of Present Illness:
___ s/p resection and proximal tibia replacement
reconstruction with medial gastrocnemius muscle flap with Dr. 
___
___ for left proximal tibia chondrosarcoma. She was recently
admitted for possible wound infection but her CXR, CT leg, UA,
labs and physical exam were not consistent with infection. No 
DVT
based on duplex. She was discharged from ___ on ___.
She presented again to an ED in ___ two days ago with concern
for infection. Per pt report, she received XR and had labs drawn
which did not show infection, but was discharged with
instructions to wash the wound with soap and water daily - which
she had been doing in the shower. She noted a dark eschar
starting a few days ago. She also notes that her wound has a 
foul
smell with some serous vs. purulent drainage. She denies fever,
chills, nausea, vomiting. Her left foot pain has actually
improved and her left leg/ankle swelling has markedly improved.
Overall she has been feeling well except her left leg pain. 

 
Past Medical History:
Depression, anxiety, reactive airway disease. 
s/p three C-sections, ___, ___ 
s/p breast augmentation  
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Admission Physical Exam: 

NAD, A&Ox3
Left lower extremity:
Surgical inicision over anterior tibia shows dark eschar with
fibrous vs. purulent tissue in the base ~15cm, several smaller
(1-2cm) areas of eschar in more proximal/distal portions of
incision. Serous vs. purulent drainage from wound. 
Soft, non-tender thigh with very tender anterior lower leg
___ fire (very weak ___
+SILT SPN/DPN/TN/saphenous/sural distributions - improved
hypersensitivy, possible CPN palsy
___ pulses, foot warm and well-perfused

Discharge Physical Exam:
Left lower extremity: 
Soft, non-tender thigh, tenderness over anterior lower leg 
persists
___ fire (very weak ___
+SILT SPN/DPN/TN/saphenous/sural distributions, possible CPN 
palsy
___ pulses, foot warm and well-perfused
 
Pertinent Results:
___ 01:50PM BLOOD WBC-8.5 RBC-3.96*# Hgb-11.3*# Hct-35.1*# 
MCV-89 MCH-28.5 MCHC-32.2 RDW-14.2 Plt ___
___ 06:45PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___:45PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 06:45PM URINE  CA OXAL-FEW
___ 06:45PM URINE  MUCOUS-RARE
___ 01:50PM   GLUCOSE-84 UREA N-7 CREAT-0.6 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-27 ANION GAP-15
___ 01:50PM   estGFR-Using this
___ 01:50PM   CRP-0.8
___ 01:50PM   WBC-8.5 RBC-3.96*# HGB-11.3*# HCT-35.1*# 
MCV-89 MCH-28.5 MCHC-32.2 RDW-14.2
___ 01:50PM   NEUTS-55.0 ___ MONOS-5.8 EOS-3.0 
BASOS-0.6
___ 01:50PM   PLT COUNT-427
___ 01:50PM   ___ PTT-28.2 ___
___ 01:50PM   SED RATE-23*

___ 07:49AM BLOOD WBC-8.0 RBC-3.37* Hgb-9.8* Hct-30.3* 
MCV-90 MCH-29.0 MCHC-32.2 RDW-13.6 Plt ___
___ 07:49AM BLOOD Neuts-50.9 ___ Monos-5.7 Eos-4.7* 
Baso-0.7
___ 07:49AM BLOOD Glucose-96 UreaN-9 Creat-0.5 Na-140 K-3.9 
Cl-109* HCO3-24 AnGap-___ yo female with h/o chrondrosarcoma s/p resection and proximal 
tibia replacement with gastroc flap LLE (___) who presented 
with black eschar over anterior left tibial wound on ___. 
Given concern for infection, she was admitted to the orthopedic 
service in consultation with plastic surgery. Infectious workup 
was negative with negative cultures and she remained afebrile 
with normal WBC. On ___, she went to the OR for washout and 
debridement of eschar with placement of VAC drain over her LLE 
wound. In the OR on ___, the necrotic tissue was limited to 
the skin and subcutaneous tissue with intact muscle flap and no 
exposure of hardware. 

She was maintained on partial weight-bearing with ___ in 
place to maximize knee extension as much as tolerated to limit 
further development of flexion contracture. On ___, she was 
taken to the OR again by plastic surgery for further excision of 
necrotic tissue with successful primary wound closure. Again, it 
was noted that the muscle flap was viable and the only exposed 
hardware was a portion of the cerclage wire. 

During the course of her admission, her pain was very difficult 
to control and required consultation by the chronic pain 
service. When she was admitted for the initial limb salvage 
surgery in ___, her pain was similarly difficult to 
control and required consultation by the acute pain service and 
chronic pain. The CPS agreed with addition of amitriptyline 25 
mg PO/NG HS for neuropathic component of pain with continuance 
of gabapentin 800 mg Q8H. Oxycontin was increased to 20mg Q8H 
for acute on chronic pain and dilaudid was increased to ___ mg 
Q3H prn. It was thought that anxiety might be contributing to 
breakthrough pain and as such valium 5mg TID was recommended for 
breakthrough pain. Finally, tylenol 1gm PO Q6H and toradol 30mg 
Q6 were started in an effort to manage her pain.
 
Medications on Admission:
ctive Medication list as of ___:
 
Medications - Prescription
DIAZEPAM - diazepam 10 mg tablet. 1 tablet(s) by mouth every
twelve (12) hours as needed for spasm / anxiety Do not take if
sleepy or somnolent -  (Not Taking as Prescribed)
ENOXAPARIN - enoxaparin 40 mg/0.4 mL Sub-Q Syringe. 40 mg SQ q
day -  (Not Taking as Prescribed)
GABAPENTIN - gabapentin 800 mg tablet. one tablet(s) by mouth
three times daily -  (Prescribed by Other Provider)
HYDROMORPHONE - hydromorphone 4 mg tablet. ___ tablet(s) by 
mouth
q3-6h as needed for pain Should take ___ total q ___ prn pain
HYDROMORPHONE - hydromorphone 2 mg tablet. ___ tablet(s) by 
mouth
Every 3 hrs as needed for Pain
HYDROMORPHONE [DILAUDID] - Dilaudid 4 mg tablet. ___ tablet(s) 
by
mouth q3-6h as needed for for pain
LORAZEPAM - lorazepam 2 mg tablet. 0.5 (One half) tablet(s) by
mouth Every 6 hours as needed for Anxiety/pain/spasms - 
(Prescribed by Other Provider)
NORETHINDRONE (CONTRACEPTIVE) [ERRIN] - Errin 0.35 mg tablet. 1
tablet(s) by mouth at bedtime -  (Prescribed by Other Provider;
Dose adjustment - no new Rx)
OXYCODONE - oxycodone 10 mg tablet. ___ tablet(s) by mouth
q4-6h as needed for for pain ok to substitute 5mg tabs if
necessary- dose stays the same, ___ po q ___ prn pain -  
(Not
Taking as Prescribed)
OXYCODONE [OXYCONTIN] - OxyContin 20 mg tablet,extended release.
1 tablet extended release 12 hr(s) by mouth twice a day Take 
only
one pill q 12 hours
TRAMADOL - tramadol 50 mg tablet. 2 tablet(s) by mouth three
times daily as needed for pain -  (Prescribed by Other Provider)
(Not Taking as Prescribed)
ZOLPIDEM - zolpidem 5 mg tablet. ___ to 1 tablet(s) by mouth at
bedtime as needed for insomnia -  (Prescribed by Other Provider)
(Not Taking as Prescribed)

Per pt she is taking oxycontin 20mg BID, dilaudid 4mg Q3H for
pain 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Amitriptyline 25 mg PO HS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
3. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
4. Diazepam 5 mg PO Q 8H pain, spasm 
RX *diazepam 5 mg 1 tablet by mouth every eight (8) hours Disp 
#*90 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 800 mg PO Q8H 
RX *gabapentin 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Capsule Refills:*0
7. Senna 1 TAB PO BID 
8. Zolpidem Tartrate 2.5-5 mg PO QHS:PRN Insomnia 
RX *zolpidem [Ambien] 5 mg ___ tablet(s) by mouth at bedtime 
Disp #*60 Tablet Refills:*0
9. Aspirin 81 mg PO DAILY 
10. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
11. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left leg wound dehiscence 
 
Discharge Condition:
alert and oriented, pain controlled on PO meds, voiding 
spontaneously, ambulating independently 
 
Discharge Instructions:
You were admitted for concern for infection. You wound was 
washed out and then closed by Plastic Surgery. Keep knee in 
brace with your knee out straight (in extension) as much as 
possible. Change dressing every other day per Plastic Surgery. 
Use a dry gauze and tape for dressing your wound. Keep dressing 
over wound dry - please change if it becomes wet. 

Elevate your leg when you are resting. 

Take one baby aspirin per day to help prevent blood clots. 

You can paritally weight bear on your left leg. 
Physical Therapy:
partial weight bearing LLE
keep ___ locked in extension as much as tolerable 
Treatments Frequency:
Keep LLE elevated when resting
Change dressing every other day or if it becomes wet or 
saturated. 
Can use dry gauze and tape for dressing. 
Reapply ACE for the next week. 
 
Followup Instructions:
___